US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide•hydrochloride
To a suspension of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (480 mg, 0.92 mmol) in methyl ethyl ketone (7 mL) was slowly added 6N aqueous hydrochloric acid solution (4 mL) and then water (4 mL), and the mixture was stirred at 80° C. for 5 min. The mixture was cooled to room temperature and stirred at room temperature for 3 hr. The precipitated solid was collected by filtration, washed with methyl ethyl ketone and dried under reduced pressure to give the title compound (410 mg, 79%) as a white solid.

reactant | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.92 mmol, 480 mg | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2)C)C2=CC=CC=C2)=O)F)C1 | C28H23FN6O4
reactant | hydrochloric acid | 6N, 4 mL | Cl | ClH
reactant | water | 4 mL | O | H2O
solvent | methyl ethyl ketone | 7 mL | C(C)C(=O)C | C4H8O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-1-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide•hydrochloride | 410 mg, 79% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2)C)C2=CC=CC=C2)=O)F)C1.Cl | InChI=1S/C28H23FN6O4.ClH/c1-33-15-21(28(38)35(33)19-5-3-2-4-6-19)27(37)30-18-9-11-23(22(29)13-18)39-20-10-12-25-31-24(16-34(25)14-20)32-26(36)17-7-8-17;/h2-6,9-17H,7-8H2,1H3,(H,30,37)(H,32,36);1H
